US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-propyl-3-quinolinecarboxamide
A mixture of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Example No. 134 (500 mg) and Pd/C (10%, 100 mg) is dissolved in 80 mL 3:1 CH2Cl2 :MeOH. The reaction mixture is placed under the Parr hydrogenator at 30 psi and monitored by mass spectroscopy for complete reduction of the acetylene. The old palladium catalyst is replaced with fresh palladium catalyst each time the reaction is taken off the Parr. The reaction mixture is filtered over celite to remove the palladium. The filtrate is condensed. The crude solid is adsorbed onto silica and chromatographed eluting with 2% MeOH in CH2Cl2. Fractions homogenous by TLC are combined and condensed to afford 16.3 mg (3%) of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | MeOH | CO | CH4O
reactant | acetylene | C#C | C2H2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | palladium | [Pd] | Pd
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-4-hydroxy-6-propyl-3-quinolinecarboxamide | 16.3 mg, 3% | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CCC)C=C1 | C20H19ClN2O2
